US07745641B2
4-Ethenesulfonyloxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0734 g, 0.133 mmol) was dissolved in methanol (1.5 mL), and the solution was added with 70% aqueous ethylamine solution (1.5 mL), followed by stirring at room temperature for 5 hours. The solvent was evaporated under reduced pressure and the residue was purified by thin-layer chromatography (chloroform/methanol=6/1) to obtain 4-[2-(ethylamino)ethanesulfonyloxy]-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0338 g, 43%).

reactant | 4-Ethenesulfonyloxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.133 mmol, 0.0734 g | C(=C)S(=O)(=O)OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C29H33N3O6S
reactant | ethylamine | 1.5 mL | C(C)N | C2H7N
solvent | methanol | 1.5 mL | CO | CH4O
product | 4-[2-(ethylamino)ethanesulfonyloxy]-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.0338 g, 43% | C(C)NCCS(=O)(=O)OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C31H40N4O6S
